US05399703
4-[2-[2-(1H-Tetrazol-5-yl)phenylthio]phenylcarbamoyl]phenoxyacetic acid
In 10 ml of ethanol was suspended 0.38 g of methyl 4-[2-[2-(1H-tetrazol-5-yl)phenylthio]phenylcarbamoyl]-p-henoxyacetate followed by addition of 1 ml of 10% sodium hydroxide, and the mixture was heated on a water bath for 10 minutes. After cooling, the reaction mixture was acidified with concentrated hydrochloic acid and diluted with water. The precipitate was collected by filtration and washed with water, ethanol and ethyl acetate in the order mentioned to give 0.32 g of the title compound as white crystals, m.p. 252°-253° C.

reactant | methyl 4-[2-[2-(1H-tetrazol-5-yl)phenylthio]phenylcarbamoyl]-p-henoxyacetate | 0.38 g | N1N=NN=C1C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(=O)C1=CC=C(OCC(=O)OC)C=C1 | C23H19N5O4S
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[2-[2-(1H-Tetrazol-5-yl)phenylthio]phenylcarbamoyl]phenoxyacetic acid | 0.32 g | N1N=NN=C1C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(=O)C1=CC=C(OCC(=O)O)C=C1 | C22H17N5O4S
